US06410556B1
To a solution of 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (202 mg, 0.50 mmol), in N,N-dimethylformamide (4 ml) was added 5-methoxy-2-methyl-3-indole acetic acid (170 mg, 0.74 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide, hydrochloride (150 mg, 0.75 mmol), and 1-hydroxybenzotriazole (105 mg, 0.74 mmol). The mixture was stirred at room temperature for 12 hours. The crude reaction mixture was diluted with dichloromethane (100 ml) and washed with water (100 ml), brine (100 ml), dried (MgSO4), filtered, and concentrated in vacuo, which afforded 2-amino-6-(4-methoxy-benzyl)-5-((2-(5-methoxy-2-methyl-1H-indol-3-yl)acetylamino)methyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.50 mmol, 202 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN)CC2=CC=C(C=C2)OC)N | C21H29N3O3S
reactant | 5-methoxy-2-methyl-3-indole acetic acid | 0.74 mmol, 170 mg | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C12H13NO3
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide, hydrochloride | 0.75 mmol, 150 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.74 mmol, 105 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-amino-6-(4-methoxy-benzyl)-5-((2-(5-methoxy-2-methyl-1H-indol-3-yl)acetylamino)methyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(CC2=C(NC1=CC=C(C=C21)OC)C)=O)CC2=CC=C(C=C2)OC)N | C33H40N4O5S
